US06670391B2
In the same manner as in Reference Example 3, except that an equimolar amount of 3-hexyloxy-4,8-dihydroxy-2H-1-benzopyran-2-one was used in place of 3-hexyloxy-4,5-dihydroxy-2H-1-benzopyran-2-one, and ethyl 3-bromobutanoate was used in place of ethyl bromoacetate in Reference Example 3, 3-hexyloxy-4-hydroxy-8-(3-ethoxycarbonylpropyloxy)-2H-1-benzopyran-2-one was obtained.

reactant | 3-hexyloxy-4,8-dihydroxy-2H-1-benzopyran-2-one | C(CCCCC)OC=1C(OC2=C(C1O)C=CC=C2O)=O | C15H18O5
reactant | ethyl 3-bromobutanoate | BrC(CC(=O)OCC)C | C6H11BrO2
product | 3-hexyloxy-4-hydroxy-8-(3-ethoxycarbonylpropyloxy)-2H-1-benzopyran-2-one | C(CCCCC)OC=1C(OC2=C(C1O)C=CC=C2OCCCC(=O)OCC)=O | C21H28O7
